US05112988
(3aRS,7aRS)-2-Benzyl-7,7-diphenylperhydro-4-isoindolone (150 g), methanol (1500 cc) and 1N hydrochloric acid (450 cc) are added to palladinized charcoal (10% palladium) (15 g); the reaction mixture is hydrogenated with stirring at room temperature and at atmospheric pressure. After 5 hours' reaction, the theoretical volume of hydrogen has been absorbed; the reaction mixture is filtered, then concentrated to dryness under reduced pressure (2.7 kPa); the residue is crystallized in ethanol (200 cc). The crystals obtained are drained, washed with ethanol (50 cc) and dried. (3aRS,7aRS)-7,7-Diphenylperhydro-4-isoindolone hydrochloride (110 g), m.p. 270° C. with decomposition, is obtained.

reactant | (3aRS,7aRS)-2-Benzyl-7,7-diphenylperhydro-4-isoindolone | 150 g | C(C1=CC=CC=C1)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H27NO
reactant | hydrochloric acid | 1N, 450 cc | Cl | ClH
reactant | charcoal | 15 g | C | CH4
solvent | methanol | 1500 cc | CO | CH4O
product | (3aRS,7aRS)-7,7-Diphenylperhydro-4-isoindolone hydrochloride | 110 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1 | InChI=1S/C20H21NO.ClH/c22-19-11-12-20(15-7-3-1-4-8-15,16-9-5-2-6-10-16)18-14-21-13-17(18)19;/h1-10,17-18,21H,11-14H2;1H
